US06514996B2
(Step A) 2-(2-Methyl-2-propen-1-yloxy)-4-bromoanisole (Compound IIa-a)
A mixture of 5-bromo-2-methoxyphenol (17.8 g), 3-chloro-2-methyl-1-propene (13.0 ml), potassium carbonate (18.2 g), and DMF (150 ml) was stirred at 80° C. for 2 hours. The mixture was diluted with toluene, washed with a saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off to give Compound IIa-a (22.2 g, 98.4%) as a colorless oily substance.

reactant | 5-bromo-2-methoxyphenol | 17.8 g | BrC=1C=CC(=C(C1)O)OC | C7H7BrO2
reactant | 3-chloro-2-methyl-1-propene | 13.0 ml | ClCC(=C)C | C4H7Cl
reactant | potassium carbonate | 18.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(2-Methyl-2-propen-1-yloxy)-4-bromoanisole | CC(COC1=C(C=CC(=C1)Br)OC)=C | C11H13BrO2
